US08871753B2
Step C: 1-(3-Aminophenyl)-N-{3-[(2,5-dichloropyrimidin-4-yl)amino]phenyl}methanesulfonamide
To a solution of N-{3-[(2,5-dichloropyrimidin-4-yl)amino]phenyl}-1-(3-nitrophenyl)methanesulfonamide (0.060 g, 0.13 mmol) in water (0.1 mL), methanol (0.5 mL) and acetic acid (0.20 mL) was added iron (0.030 g, 0.53 mmol) powder in one batch. The mixture was stirred at 0° C. for 0.5 h. The reaction was mixed with celite, filtered, and the cake was washed with EtOAc. The brown filtrate was concentrated and EtOAc and NaHCO3/water added. Water phase was extracted with EtOAc twice. The organics were combined, dried over Na2SO4 and concentrated to give the desired product as a yellow powder (0.050 g, 89%. LCMS for C17H15Cl2N5O2S (M+H)+: m/z=423.9, 426.0.

reactant | N-{3-[(2,5-dichloropyrimidin-4-yl)amino]phenyl}-1-(3-nitrophenyl)methanesulfonamide | 0.13 mmol, 0.060 g | ClC1=NC=C(C(=N1)NC=1C=C(C=CC1)NS(=O)(=O)CC1=CC(=CC=C1)[N+](=O)[O-])Cl | C17H13Cl2N5O4S
solvent | water | 0.1 mL | O | H2O
solvent | methanol | 0.5 mL | CO | CH4O
solvent | acetic acid | 0.20 mL | C(C)(=O)O | C2H4O2
catalyst | iron | 0.53 mmol, 0.030 g | [Fe] | Fe
product | 1-(3-Aminophenyl)-N-{3-[(2,5-dichloropyrimidin-4-yl)amino]phenyl}methanesulfonamide | NC=1C=C(C=CC1)CS(=O)(=O)NC1=CC(=CC=C1)NC1=NC(=NC=C1Cl)Cl | C17H15Cl2N5O2S
